US04723014
5.2 g of 90% pyridinium bromide perbromide was added in one portion to a solution of 5 g of 3-pyridinecarboxylic acid, 5-cyano-1,4-dihydro-2,6-dimethyl-4-[2-(trifluoromethyl)phenyl]-, ethyl ester and 1.2 ml pyridine in 150 ml of dry ethanol-free CHCl3 at -10° C. The mixture was stirred for 45 minutes at 0° C. and the bromide (6 g) was obtained by flash chromatography over silica gel (10% EtAc/CH2Cl2). This was dissolved in 30 ml of THF and added dropwise to a suspension of 4-mercaptopyridine, sodium salt [(prepared from 1.5 g of 4-mercapto pyridine and 0.5 g of 60% NaH in THF/DMF (1:1, 40 ml)] at 0° C. and the mixture was warmed to room temperature. After stirring for one hour, the reaction mixture was diluted with water and extracted with CH2Cl2. The organic extracts were washed with water, dried, and evaporated. The residue was crystallized from EtAc to give 5.1 g of 3-pyridinecarboxylic acid, 5-cyano-1,4-dihydro-6-methyl-2[4-pyridinylthiomethyl]-4-[(2-trifluoromethyl)phenyl]-, ethyl ester, mp 222°-224° C.

reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
reactant | sodium | [Na] | Na
reactant | 4-mercapto pyridine | 1.5 g | SC1=CC=NC=C1 | C5H5NS
reactant | NaH | 0.5 g | [H-].[Na+]
reactant | THF DMF | 40 ml | C1CCOC1.CN(C)C=O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-pyridinecarboxylic acid | 5.1 g | N1=CC(=CC=C1)C(=O)O | C6H5NO2
